US08207164B2
c) 5-(5-Bromo-2-fluoro-phenyl)-5-difluoromethyl-2-methyl-morpholine-3-thione
To a solution of 5-(5-bromo-2-fluoro-phenyl)-5-difluoromethyl-2-methyl-morpholin-3-one (659 mg, 1.949 mmol) in 6.6 mL pyridine was added phosphorus pentasulfide (433 mg, 1.949 mmol) and the mixture was heated to 80° C. for 120 minutes. The reaction mixture was cooled to room temperature and partitioned between 0.1 N NaOH and EtOAc. The layers were separated, washed with brine and EtOAc. The combined organic layers were dried over MgSO4.H2O and evaporated to give 704 mg of the title compound as a diastereomeric mixture.

reactant | 5-(5-bromo-2-fluoro-phenyl)-5-difluoromethyl-2-methyl-morpholin-3-one | 1.949 mmol, 659 mg | BrC=1C=CC(=C(C1)C1(COC(C(N1)=O)C)C(F)F)F | C12H11BrF3NO2
reactant | phosphorus pentasulfide | 1.949 mmol, 433 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 6.6 mL | N1=CC=CC=C1 | C5H5N
product | 5-(5-Bromo-2-fluoro-phenyl)-5-difluoromethyl-2-methyl-morpholine-3-thione | 704 mg | BrC=1C=CC(=C(C1)C1(COC(C(N1)=S)C)C(F)F)F | C12H11BrF3NOS
